US05262540
A mixture of 2-(7-bromoheptyl)-4,5-diphenyloxazole (10.00 g, 25 mmol), dimethyl malonate (9.95 g, 8.60 mL, 75 mmol), potassium tert-butoxide (8.44 g, 75 mmol), Eighteen Crown 6 ether (catalytic amount) and tetrahydrofuran (200 mL) was heated to reflux under an atmosphere of nitrogen. After 17.5 hours, the mixture was cooled, diluted with 2N hydrochloric acid solution and extracted with CH2Cl2. The combined extracts were dried over sodium sulfate and concentrated in vacuo to leave an oil. Chromatography on a column of silica gel using a mixture of hexanes and diethyl ether (9:1) as eluent afforded dimethyl 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioate (9.47 g, 83%) as an oil. An analytical sample (hydrated) was prepared by rechromatographing a 3.28 g sample on silica gel using a mixture of hexane and diethyl ether (4:1) as the mobile phase.

reactant | 2-(7-bromoheptyl)-4,5-diphenyloxazole | 25 mmol, 10.00 g | BrCCCCCCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H24BrNO
reactant | dimethyl malonate | 75 mmol, 8.60 mL, 9.95 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | potassium tert-butoxide | 75 mmol, 8.44 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | dimethyl 2-[7-(4,5-diphenyl-2-oxazolyl)heptyl]propanedioate | 9.47 g, 83% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCC(C(=O)OC)C(=O)OC | C27H31NO5
